US09169248B2
Pyridine (20.46 mL, 253 mmol) was added to a solution of cyclobutanecarboxylic acid chloride (10.0 g, 84.3 mmol) and isopropylidene malonate (12.16 g, 84.3 mmol) in CH2Cl2 (100 mL) at 0° C. and the mixture was stirred at room temperature for 1.5 h. Methanol (100 mL) was then added and the resulting mixture was stirred at reflux for 3 h, cooled to room temperature and partitioned between aqueous HCl (1 M, 200 mL) and EtOAc (500 mL). The organic layer was separated, dried over anhydrous sodium sulfate, concentrated in vacuo and purified by flash chromatography (SiO2, 0-20% EtOAc/hexanes gradient elution) to give methyl 3-cyclobutyl-3-oxo-propanoate (11.6 g, 88% yield).

reactant | Pyridine | 253 mmol, 20.46 mL | N1=CC=CC=C1 | C5H5N
reactant | cyclobutanecarboxylic acid chloride | 84.3 mmol, 10.0 g | C1(CCC1)C(=O)Cl | C5H7ClO
reactant | isopropylidene malonate | 84.3 mmol, 12.16 g | C1(CC(=O)OC(C)(C)O1)=O | C6H8O4
reactant | Methanol | 100 mL | CO | CH4O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | methyl 3-cyclobutyl-3-oxo-propanoate | 11.6 g, 88% yield | C1(CCC1)C(CC(=O)OC)=O | C8H12O3
